US07470710B2
The mixture of 2-piperidin-2-ylmethyl-5,6,7,8-tetrahydro-[1,2,4]-triazolo[1,5-a]pyridine and 2-piperidin-2-ylmethyl-[1,2,4]-triazolo[1,5-a]pyridine, D34 (0.220 g) was treated with HATU (0.380 g), N,N-diisopropylethylamine (1.0 ml) and 5-4-fluorophenyl)-2-methylthiazole-4-carboxylic acid (0.240 g) in dry DMF, according to the procedure described in Example 60. The crude product was chromatographed (silica gel, 4% methanol-diethyl ether) to afford 1-[5-(4-fluoro-phenyl)-2-methylthiazol-4-yl]-1-(2-[1,2,4]-triazolo[1,5-a]pyridin-2-ylmethylpiperidin-1-yl)-methanone as a colourless foam (0.070 g) (Mass spectrum (API30 ): found 436(MH+): C23H22FN5OS requires 435). Continued elution (10% methanol diethyl ether) afforded 1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-1-[2-(5,6,7,8-tetrahydro-[1,2,4]-triazolo[1,5-a]-pyridin-2-ylmethyl)piperidin-1-yl]-methanone as a colourless foam (0.230 g) (Mass spectrum (API+): found 440(MH+): C23H26FN5OS requires 439).

reactant | 2-piperidin-2-ylmethyl-5,6,7,8-tetrahydro-[1,2,4]-triazolo[1,5-a]pyridine | N1C(CCCC1)CC1=NN2C(CCCC2)=N1 | C12H20N4
reactant | 2-piperidin-2-ylmethyl-[1,2,4]-triazolo[1,5-a]pyridine | N1C(CCCC1)CC1=NN2C(C=CC=C2)=N1 | C12H16N4
reactant | HATU | 0.380 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 1.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methylthiazole-4-carboxylic acid | 0.240 g | CC=1SC=C(N1)C(=O)O | C5H5NO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-[5-(4-fluoro-phenyl)-2-methylthiazol-4-yl]-1-(2-[1,2,4]-triazolo[1,5-a]pyridin-2-ylmethylpiperidin-1-yl)-methanone | 0.070 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)N1C(CCCC1)CC1=NN2C(C=CC=C2)=N1 | C23H22FN5OS
